US05491153
Step b: 3-Amino-2-carbethoxy-4,6-dichloroindole
Dissolve 3-nitro-2-carbethoxy-4,6-dichloroindole (38.1 g) in ethanol (1L) and add tin (II) chloride dihydrate (163 g). Warm to between 65° and 75° C. for 4 to 5 hours. Cool to room temperature and pour intoa mixture of ethyl acetate (3L) and water (2L). Add solid potassium carbonate and stir occasionally until the carbon dioxide evolution ceases.Filter through Celite and separate the organic phase of the filtrate. Dry (MgSO4) and evaporate the solvent in vacuo to give the title compoundas an off-yellow solid (33.5 g, 97.6%).

reactant | 3-nitro-2-carbethoxy-4,6-dichloroindole | 38.1 g | [N+](=O)([O-])C1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H8Cl2N2O4
reactant | tin (II) chloride dihydrate | 163 g | O.O.[Sn](Cl)Cl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
solvent | ethyl ether | C(C)OCC | C4H10O
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Amino-2-carbethoxy-4,6-dichloroindole | 33.5 g, 97.6% | NC1=C(NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCC | C11H10Cl2N2O2
